US05574042
To a solution of 3-bromo-8-[2,6-dichloro-3-[N-(N-mesyloxyacetylglycyl)-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine (100 mg) in methanol (2 ml) was added sodium methoxide (317 mg), and the mixture was stirred for 1 hour. Sodium methoxide (200 mg) was added thereto, and the mixture was stirred for 3 hours. To the reaction mixture was added water, and the mixture was extracted with methylene chloride 3 times. The extracts were combined, washed with brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by preparative thin-layer chromatography (methylene chloride:methanol =10:1, V/V) to give 3-bromo-8-[2,6-dichloro-3-[N-(methoxyacetylglycyl)-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine (60 mg).

reactant | 3-bromo-8-[2,6-dichloro-3-[N-(N-mesyloxyacetylglycyl)-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine | 100 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C)C(CNC(COS(=O)(=O)C)=O)=O)Cl)C | C21H21BrCl2N4O6S
reactant | sodium methoxide | 317 mg | C[O-].[Na+]
reactant | Sodium methoxide | 200 mg | C[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | 3-bromo-8-[2,6-dichloro-3-[N-(methoxyacetylglycyl)-N-methylamino]benzyloxy]-2-methylimidazo[1,2-a]pyridine | 60 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C)C(CNC(COC)=O)=O)Cl)C | C21H21BrCl2N4O4
